US05234928
6-Chloro-1-(4-fluorophenyl)methyl-1,4-dihydro2,4-dioxo-3(2H)-quinazolineacetic acid
Into 50 ml of ethanol were dissolved 1.59 g of ethyl 6-chloro-1-(4-fluorophenyl)methyl-1,4dihydro-2,4-dioxo-3(2H)-quinazolineacetate, and after added 5 ml of aqueous solution containing 0.30 g of potassium hydroxide, the mixture was refluxed for 1 hour. After cooling by allowing to stand, ethanol was distilled off and the residue was dissolved by adding 30 ml of water, acidified with concentrated hydrochloric acid, and the deposits were collected by filtration. They were recrystallized from acetonitrile to obtain 0.75 g of title compound. m.p. 211°-212° C.

reactant | ethyl 6-chloro-1-(4-fluorophenyl)methyl-1,4dihydro-2,4-dioxo-3(2H)-quinazolineacetate | 1.59 g | ClC=1C=C2C(N(C(N(C2=CC1)CC1=CC=C(C=C1)F)=O)CC(=O)OCC)=O | C19H16ClFN2O4
reactant | potassium hydroxide | 0.30 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-Chloro-1-(4-fluorophenyl)methyl-1,4-dihydro2,4-dioxo-3(2H)-quinazolineacetic acid | 0.75 g | ClC=1C=C2C(N(C(N(C2=CC1)CC1=CC=C(C=C1)F)=O)CC(=O)O)=O | C17H12ClFN2O4
